US07507740B2
(i) Production of ethyl (4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)acetate
To a suspension of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (200 mg) in N,N-dimethylformamide (1.3 mL) was added cesium carbonate (615 mg) under ice-cooling, and the mixture was stirred while warming to room temperature for 15 min. To the reaction mixture was added ethyl bromoacetate (326 mg), and the mixture was stirred at room temperature for 2.5 hrs. The reaction mixture was diluted with water (20 mL) and extracted with ethyl acetate (20 mL×3). The organic layer washed with saturated brine (20 mL×3) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (silica gel, eluent:hexane/ethyl acetate=90/10→0/10). The object fraction was concentrated under reduced pressure and dried to give the title compound (210 mg) as white powder crystals.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 200 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | cesium carbonate | 615 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 326 mg | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 1.3 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | ethyl (4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)acetate | 210 mg | ClC=1C2=C(N=CN1)C=CN2CC(=O)OCC | C10H10ClN3O2
